US08865911B2
Step 1: N-(7-Bromo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-methylpropane-2-sulfinamide
7-Bromo-3,4-dihydronaphthalen-1(2H)-one (5 g, 22.21 mmol), 2-methylpropane-2-sulfinamide (4.04 g, 33.32 mmol) and titanium ethoxide (9.15 mL, 44.43 mmol) were dissolved in 2-Me THF (50 mL) and heated to reflux for 22 h. The reaction was left to cool down to r.t. EtOAc (20 mL), NaHCO3 (sat, 5 mL) and water was added under stirring. The mixture was left to stand without stirring for 1 h. The organic phase was collected by filtration, dried over MgSO4 and concentrated in vacuo to give the title compound (7.29 g) that was used without purification in the next step: 1 H NMR (500 MHz, CDCl3) δ ppm 1.34 (s, 9 H), 2.00-2.10 (m, 2 H), 2.77-2.86 (m, 2 H), 3.01-3.12 (m, 1 H), 3.28 (ddd, 1 H), 7.09 (d, 1 H), 7.50 (dd, 1 H), 8.25 (d, 1 H), MS (ES+) m/z 328[M+H]+.

reactant | 7-Bromo-3,4-dihydronaphthalen-1(2H)-one | 22.21 mmol, 5 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | 2-methylpropane-2-sulfinamide | 33.32 mmol, 4.04 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
catalyst | titanium ethoxide | 44.43 mmol, 9.15 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
solvent | water | O | H2O
product | N-(7-Bromo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-methylpropane-2-sulfinamide | 7.29 g | BrC1=CC=C2CCCC(C2=C1)=NS(=O)C(C)(C)C | C14H18BrNOS
